US06506901B2
Step A: 1-Propylpiperidine-4-carboxamide
A solution of isonipecotamide (2.0 g, 15.6 mmol), 1-iodopropane (1.52 mL, 15.6 mmol), and potassium carbonate (2.15 g, 15.6 mmol) was heated at reflux in 100 mL of 2-butanone. The solids were filtered and the filtrate concentrated in vacuo to give crude product. Purification by flash chromatography (CH2Cl2—CH3OH, 12:1 ) afforded 1.25 9 of the product as an off-white solid.

reactant | isonipecotamide | 15.6 mmol, 2.0 g | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | 1-iodopropane | 15.6 mmol, 1.52 mL | ICCC | C3H7I
reactant | potassium carbonate | 15.6 mmol, 2.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 100 mL | CC(CC)=O | C4H8O
product | 1-Propylpiperidine-4-carboxamide | C(CC)N1CCC(CC1)C(=O)N | C9H18N2O
